US04572805
In 50 ml of methanol having 0.94 g (0.0236 mol) of sodium hydroide dissolved therein, 3.0 g (0.0157 mol) of 4-cyano-2,3,5,6-tetrafluorophenol was dissolved. The resultant solution was kept with ice at 0° C. To the cooled solution, 1.80 g (0.0173 mol) of methacrylic acid chloride as slowly added dropwise. After completion of this dropwise addition, the resultant mixture was stirred at the same temperature for two hours. It was then mixed with 50 ml of pure water and adjusted to pH 10 by addition of an aqueous 20% sodium hydroide solution. As the result, white crystals occurred. The white crystals were filtered, washed with cold water, and then dried to obtain 1.35 g of 4-cyano-2,3,5,6-tetrafluorophenyl methacrylate (purity 98% and yield 32 mol % based on 4-cyano-2,3,5,6-tetrafluorophenol). The analyses obtained of this novel substance for the determination of its chemical structure were the same as those of Example 2.

reactant | methanol | 0.0236 mol, 50 ml, 0.94 g | CO | CH4O
reactant | 4-cyano-2,3,5,6-tetrafluorophenol | 0.0157 mol, 3.0 g | C(#N)C1=C(C(=C(C(=C1F)F)O)F)F | C7HF4NO
reactant | methacrylic acid chloride | 0.0173 mol, 1.80 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | water | 50 ml | O | H2O
solvent | sodium | [Na] | Na
product | 4-cyano-2,3,5,6-tetrafluorophenyl methacrylate | 1.35 g | C(C(=C)C)(=O)OC1=C(C(=C(C(=C1F)F)C#N)F)F | C11H5F4NO2
